US08314097B2
C. 1-(2-Bromobenzyl)-5-(3-chloropropyl)-1H-imidazole
To a solution of SOCl2 (0.55 mL, 7.54 mmol) in CH2Cl2 (15 mL) at 0° C. is added 3-[3-(2-bromobenzyl)-3H-imidazol-4-yl]propan-1-ol in portion and the resulting white suspension is refluxed for 1.5 h. The mixture is cooled with ice and collected to give a buff-colored solid, which is partitioned between CH2Cl2 and saturated aqueous NaHCO3. The organic layer is washed with brine, dried over anhydrous Na2SO4, and concentrated to give an oil. MS (ESI) m/z 313 (M+H).

reactant | SOCl2 | 7.54 mmol, 0.55 mL | O=S(Cl)Cl | Cl2OS
reactant | 3-[3-(2-bromobenzyl)-3H-imidazol-4-yl]propan-1-ol | BrC1=C(CN2C=NC=C2CCCO)C=CC=C1 | C13H15BrN2O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-Bromobenzyl)-5-(3-chloropropyl)-1H-imidazole | BrC1=C(CN2C=NC=C2CCCCl)C=CC=C1 | C13H14BrClN2
